US08076491B2
(S)-methyl 2-(benzylamino)propanoate
Prepared as in Example 12-1b from benzaldehyde and (R)-methyl 2-aminopropanoate hydrochloride. Yield 95%. MS 194 (MH+).

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | (R)-methyl 2-aminopropanoate hydrochloride | Cl.N[C@@H](C(=O)OC)C
product | (S)-methyl 2-(benzylamino)propanoate | Yield 95% | C(C1=CC=CC=C1)N[C@H](C(=O)OC)C | C11H15NO2
